US06130238
Crude dimethyl 3'-ethoxy-3-nitrobiphenyl-4-malonate was heated at 100° C. in 60 mL of 6N hydrochloric acid for 4 days and then cooled. The precipitate was collected by filtration, washed with water and hexane, and dried to give 4.7 g of crude 3'-ethoxy-3-nitrobiphenyl-4-acetic acid as a light tan solid.

reactant | dimethyl 3'-ethoxy-3-nitrobiphenyl-4-malonate | C(C)OC=1C=C(C=CC1)C1=CC(=C(C=C1)C(C(=O)OC)C(=O)OC)[N+](=O)[O-] | C19H19NO7
solvent | hydrochloric acid | 6N, 60 mL | Cl | ClH
product | 3'-ethoxy-3-nitrobiphenyl-4-acetic acid | 4.7 g | C(C)OC=1C=C(C=CC1)C1=CC(=C(C=C1)CC(=O)O)[N+](=O)[O-] | C16H15NO5
